US04112095
As in Example 35, the following reactions are carried out. m-Fluorobenzaldehyde is reacted with p-toluenesulfonic acid, morpholine and KCN to give α-(m-fluorophenyl)-4-morpholineacetonitrile as crystals (from CH2Cl2 -hexane) m.p. 74°-75° C.

reactant | m-Fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | KCN | [C-]#N.[K+]
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | α-(m-fluorophenyl)-4-morpholineacetonitrile | FC=1C=C(C=CC1)C(C#N)N1CCOCC1 | C12H13FN2O
